US04533739
2-[(2-Methyl-4-aminophenyl)amino]azacyclohex-1-ene, dihydrochloride
The title compound (8.2 g) was prepared by the methods of Examples 8 and 9 using 2-chloroazacyclohex-1-ene (0.10 mole), prepared as in Example 2, and 7.6 g (0.05 mole) of 2-methyl-4-nitroaniline. Structure assignment was supported by the nmr spectrum and by elemental analysis.

reactant | 2-chloroazacyclohex-1-ene | 0.10 mole | ClC1=NCCCC1 | C5H8ClN
reactant | 2-methyl-4-nitroaniline | 0.05 mole, 7.6 g | CC1=C(N)C=CC(=C1)[N+](=O)[O-] | C7H8N2O2
product | 2-[(2-Methyl-4-aminophenyl)amino]azacyclohex-1-ene, dihydrochloride | 8.2 g | Cl.Cl.CC1=C(C=CC(=C1)N)NC1=NCCCC1 | InChI=1S/C12H17N3.2ClH/c1-9-8-10(13)5-6-11(9)15-12-4-2-3-7-14-12;;/h5-6,8H,2-4,7,13H2,1H3,(H,14,15);2*1H
